US07696231B2
a) Preparation of N-[4-(hydrazinocarbonyl)phenyl]-2-phenoxyacetamide (Scheme 2, compound B)
To a suspension of methyl 4-[(phenoxyacetyl)amino]benzoate (843 mg, 2.95 mmol) in EtOH (10 mL) was added hydrazine hydrate (2.15 mL). After stirring for 15 hrs at reflux, the reaction mixture was cooled to rt. Water (10 mL) was added to the reaction mixture and a white solid precipitated out. Filtration, washing with EtOH/water (2×2 mL) and water (3×1 mL), and drying under vacuo at 70° C. for 6 hrs gave 389 mg of the title compound (46%) as a white solid in 95.4% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-[(phenoxyacetyl)amino]benzoate | 2.95 mmol, 843 mg | O(C1=CC=CC=C1)CC(=O)NC1=CC=C(C(=O)OC)C=C1 | C16H15NO4
reactant | hydrazine hydrate | 2.15 mL | O.NN
reactant | Water | 10 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-[4-(hydrazinocarbonyl)phenyl]-2-phenoxyacetamide | 389 mg, 46% | N(N)C(=O)C1=CC=C(C=C1)NC(COC1=CC=CC=C1)=O | C15H15N3O3
